US08183271B2
Ethyl 6-(4-cyanobenzyl)-7-oxoheptanoate
A solution of 4.6 g (15.90 mmol) of ethyl 6-(4-cyanobenzyl)-7-hydroxyheptanoate in 250 ml of dichloromethane is mixed with 4.11 g (19.08 mmol) of pyridinium chlorochromate (PCC) and stirred at room temperature for 12 hours. After conversion is complete, 10 g of silica gel are added, and the solvent is cautiously concentrated to dryness in vacuo. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 1:1). 4.09 g (14.23 mmol, 89% of theory) of a colorless solid are obtained.

reactant | ethyl 6-(4-cyanobenzyl)-7-hydroxyheptanoate | 15.90 mmol, 4.6 g | C(#N)C1=CC=C(CC(CCCCC(=O)OCC)CO)C=C1 | C17H23NO3
reactant | pyridinium chlorochromate | 19.08 mmol, 4.11 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ethyl 6-(4-cyanobenzyl)-7-oxoheptanoate | C(#N)C1=CC=C(CC(CCCCC(=O)OCC)C=O)C=C1 | C17H21NO3
